US05639752
D. 3-(N-t-Butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-5-(3-nitropyrid-2-yloxy)-1H-indole
3-(N-t-Butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-5-hydroxy-1H-indole and 2-chloro-3-nitropyridine were used. Sodium hydride (60% in oil) was the base, tetrahydrofuran was the reaction solvent, the reaction was stirred at room temperature for 3 hours, and the chromatographic solvent system was diethyl ether/hexanes [gradient 1:1 to 4:1] to afford the title compound (62%) as a yellow solid: top, 206.0°-208.0° C. with effervescence; 1H NMR (DMSO-d6) δ8.53 (dd, J=1.8 and 8.3 Hz, 1H), 8.33 (dd, J=1.8 and 4.4 Hz, 1H), 7.62 (d, J=2.0 Hz, 1H), 7.50 (br s, 1H), 7.42 (d, J=8.6 Hz, 1H), 7.30 (dd, J=4.4 and 8.3 Hz, 1H), 6.94 (dd, J=2.0 and 8.6 Hz, 1H), 6.05-6.01 (m, 1H), 4.02-3.94 (m, 2H), 3.54 (br t, J=5.6 Hz, 2H), 2.54-2.45 (m, 2H), 1.42 (s, 9H); TLC [methylene chloride/hexanes, 1:1]: Rf =0.2; TLC [diethyl ether]: Rf 32 0.3.

reactant | 3-(N-t-Butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-5-hydroxy-1H-indole | C(C)(C)(C)OC(=O)N1CC=C(CC1)C1=CNC2=CC=C(C=C12)O | C18H22N2O3
reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | Sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(N-t-Butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-5-(3-nitropyrid-2-yloxy)-1H-indole | 62% | C(C)(C)(C)OC(=O)N1CC=C(CC1)C1=CNC2=CC=C(C=C12)OC1=NC=CC=C1[N+](=O)[O-] | C23H24N4O5
